US04996352
A mixture of 1.0g (0.0027 mol) of (-)-β-[(2-amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid and 0.1 g of p-toluenesulfonic acid in 50 ml of xylene was stirred and heated at reflux for 1.5 hours using a Dean-Stark water strap. After cooling the crystals were collected to provide 0.80 g (80%) of [2R-(2α,3α)] 2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b] [1.4]thiazepin-4(5H)-one, mp 238-239°, [α]D 25 -22.97° (C 0.51, acetone).

reactant | (-)-β-[(2-amino-1-naphthalenyl)thio]-α-hydroxy-4-methoxybenzenepropanoic acid | 0.0027 mol, 1.0g | NC1=C(C2=CC=CC=C2C=C1)SC(C(C(=O)O)O)C1=CC=C(C=C1)OC | C20H19NO4S
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)naphtho[1,2-b] [1.4]thiazepin-4(5H)-one | OC1C(NC2=C(SC1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)=O | C20H17NO3S
